US06214869B1
(cis)-3-(2,3-Dihydrobenzofuran-4-yl)prop-2-en-1-ol
A mixture of 3-(2,3-dihydrobenzofuran-4-yl)prop-2-yn-1-ol (6.2 mmol) and Pd/C (300 mg) in 20 mL of pyridine was shaken under an atmosphere of H2 (10 psi) until no starting material remained (8 h). The crude reaction mixture was filtered to remove the catalyst and the catalyst was washed with ether. The filtrate was concentrated in vacuo to provide 1.1 g of the desired product as a yellow oil (quantitative yield).

reactant | 3-(2,3-dihydrobenzofuran-4-yl)prop-2-yn-1-ol | 6.2 mmol | O1CCC2=C1C=CC=C2C#CCO | C11H10O2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | (cis)-3-(2,3-Dihydrobenzofuran-4-yl)prop-2-en-1-ol | 1.1 g, quantitative yield | O1CCC2=C1C=CC=C2\C=C/CO | C11H12O2
